US08048878B2
Synthesis of (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}-N,N-dimethylbenzamide
IPEA (0.03 mL), HOBT (10 mg), and EDC (14 mg) were sequentially added to a solution of (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoic acid (22 mg) and dimethylamine (2 M solution in THF, 0.12 mL) in DMF (2 mL), and the reaction solution was stirred at room temperature for two hours. Then, the reaction solution was further stirred at 100° C. for six hours. The reaction solution was left to cool to room temperature. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate:methanol=9:1) to obtain 19 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 0.03 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoic acid | 22 mg | COC=1C=C(\C=C/2\C(N3[C@@H](CCC[C@@H]3CC2)C2=CC=C(C(=O)O)C=C2)=O)C=CC1N1C=NC(=C1)C | C28H29N3O4
reactant | dimethylamine | 2 M, 0.12 mL | CNC | C2H7N
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 14 mg
product | (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}-N,N-dimethylbenzamide | 19 mg | COC=1C=C(\C=C/2\C(N3[C@@H](CCC[C@@H]3CC2)C2=CC=C(C(=O)N(C)C)C=C2)=O)C=CC1N1C=NC(=C1)C | C30H34N4O3
